US08445510B2
1-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3,5-dimethyl-1H-pyrazol-1-yl)-2-methylpropan-2-ol
A mixture of 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (20.0 mg, 0.0521 mmol), 1-[3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]-2-methylpropan-2-ol (30.7 mg, 0.104 mmol), Pd(PPh3)4 (3.01 mg, 0.00261 mmol), K2CO3 (21.6 mg, 0.156 mmol) and 4:1 dioxane:water was microwaved at 100° C. for 45 min. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.23 (s, 3H), 1.24 (s, 3H), 1.80 (d, J=7.3 Hz, 3H), 2.07 (s, 3H), 2.17 (s, 3H), 3.65 (br. s., 3H), 4.01 (s, 2H), 5.06-5.15 (m, 1H), 6.89 (dd, J=9.1, 4.0 Hz, 1H), 7.08 (t, J=8.8 Hz, 1H), 7.32 (s, 1H), 7.36 (d, J=1.3 Hz, 1H), 7.99 (d, J=1.8 Hz, 1H). MS (ES+): m/z=471.03/473.01 (100/50) [MH+]. HPLC: tR=3.47 min (polar—5 min, ZQ3).

reactant | 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 0.0521 mmol, 20.0 mg | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2OC)F)Cl | C16H13BrClFN2O
reactant | 1-[3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]-2-methylpropan-2-ol | 0.104 mmol, 30.7 mg | CC1=NN(C(=C1B1OC(C(O1)(C)C)(C)C)C)CC(C)(O)C | C15H27BN2O3
reactant | K2CO3 | 0.156 mmol, 21.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.00261 mmol, 3.01 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 1-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3,5-dimethyl-1H-pyrazol-1-yl)-2-methylpropan-2-ol | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2C)CC(C)(O)C)C | C25H28ClFN4O2
